US06451814B1
Triisopropyl{2-methyl-4-[(2S)oxiranylmethoxy]phenoxy}silane
The title compound (5.83 g, 17.32 mmol)was prepared according to Procedure B using the following amounts: 4-(triisopropylsilyloxy)-3-methylphenol (prepared according to B. A. Wood et. al., Xenobiotica, 1975, 5, 183) (7.73 g, 27.56 mmol), R-(+)-glycidol (4.02 mL, 60.63 mmol), triphenylphosphine (15.90 g, 60.63 mmol), diethyl azodicarboxylate (9.76 mL, 62.01 mmol).

reactant | 4-(triisopropylsilyloxy)-3-methylphenol | 27.56 mmol, 7.73 g | C(C)(C)[Si](OC1=C(C=C(C=C1)O)C)(C(C)C)C(C)C | C16H28O2Si
reactant | triphenylphosphine | 60.63 mmol, 15.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 62.01 mmol, 9.76 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | Triisopropyl{2-methyl-4-[(2S)oxiranylmethoxy]phenoxy}silane | 17.32 mmol, 5.83 g | C(C)(C)[Si](OC1=C(C=C(C=C1)OC[C@H]1OC1)C)(C(C)C)C(C)C | C19H32O3Si
